US07659268B2
To a solution of N-(6-bromopyridin-2-yl)acetamide (9.0 g, 40 mmol) in H2SO4 (100 mL) was added HNO3 (69%, 5.5 g, 60 mmol) drop-wise at 0° C. The mixture was stirred at this temperature for 4Hours, and was then poured into ice-water. The mixture was extracted with EtOAc (100 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under vacuum to give 6-bromo-5-nitropyridin-2-amine (7.5 g, 82%). 1H NMR (400 MHz, DMSO) δ 8.10 (d, J=8.8 Hz, 1H), 7.73 (brs, 2H), 6.46 (d, J=8.8 Hz, 1H).

reactant | N-(6-bromopyridin-2-yl)acetamide | 40 mmol, 9.0 g | BrC1=CC=CC(=N1)NC(C)=O | C7H7BrN2O
reactant | HNO3 | 60 mmol, 5.5 g | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 100 mL | OS(=O)(=O)O | H2O4S
product | 6-bromo-5-nitropyridin-2-amine | 7.5 g, 82% | BrC1=C(C=CC(=N1)N)[N+](=O)[O-] | C5H4BrN3O2
